US08008340B2
5-Bromo-3-phenylsulfanyl-1H-indole-2-carboxylic acid amide (Id)
Treat 5-bromo-1H-indole-2-carboxylic acid ethyl ester 1 (X═Br, 4.67 mmol) with 7 N NH3/MeOH as described in General Synthetic Procedure III to afford 5-bromo-1H-indole-2-carboxylic acid amide 4 (X═Br, R2═R3═H) as an ivory-colored solid. Treat 5-bromo-1H-indole-2-carboxylic acid amide (100 mg, 0.41 mmol) with diphenyldisulfide (1.50 equiv., 141 mg, 0.65 mmol) as described in General Synthetic Procedure VIIb to give the title compound Id (85 mg) as an ivory-colored solid. 1H NMR (DMSO-d6) δ 12.5 (brs, 1H), 8.0 (brs, 1H), 7.72 (brs, 1H), 7.59-7.08 (m, 8H); LC/MS: m/z obs=347 (M+1).

reactant | 5-bromo-1H-indole-2-carboxylic acid amide | 0.41 mmol, 100 mg | BrC=1C=C2C=C(NC2=CC1)C(=O)N | C9H7BrN2O
reactant | diphenyldisulfide | 0.65 mmol, 141 mg, 1.50 equiv. | C1(=CC=CC=C1)SSC1=CC=CC=C1 | C12H10S2
product | 5-Bromo-3-phenylsulfanyl-1H-indole-2-carboxylic acid amide | BrC=1C=C2C(=C(NC2=CC1)C(=O)N)SC1=CC=CC=C1 | C15H11BrN2OS
